US07196090B2
c) Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate
To a 250-mL dry, round-bottomed flask was added 3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidine (1.5 g, 4.08 mmol), ethyl-4-hydroxycyclohexanecarboxylate (2.11 g, 12.23 mmol), triphenylphosphine (3.21 g, 12.23 mmol), and tetrahydrofuran (50 mL), and the solution was blanketed with a nitrogen atmosphere. The solution was then cooled to 0° C., and diisopropylazodicarboxylate (2.41 mL, 12.23 mmol) was added dropwise. The solution was then warmed to room temperature and stirred overnight. The crude mixture was then concentrated in vacuo and taken up in dichloromethane, washed with water, dried over sodium sulfate, and concentrated. The crude was purified by flash silica chromatography eluting with 3:2 hexane/ethyl acetate to yield the title compound (1.17 g, 55% yield): LRMS: 523.2 (M+H).

reactant | 3-(2,6-Difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidine | 4.08 mmol, 1.5 g | FC1=C(C(=C(C=C1OC)OC)F)N1C(NC2=NC(=NC=C2C1)SC)=O | C15H14F2N4O3S
reactant | ethyl-4-hydroxycyclohexanecarboxylate | 12.23 mmol, 2.11 g | C(C)OC(=O)C1CCC(CC1)O | C9H16O3
reactant | triphenylphosphine | 12.23 mmol, 3.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 12.23 mmol, 2.41 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Ethyl-4-[3-(2,6-difluoro-3,5-dimethoxy-phenyl)-7-methylsulfanyl-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-cyclohexanecarboxylate | 1.17 g, 55% yield | C(C)OC(=O)C1CCC(CC1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C(=CC(=C2F)OC)OC)F)=O | C24H28F2N4O5S
